US07897762B2
In ethanol (10 mL) was placed the tert-butylhydrazine hydrochloride (1.35 g, 10.8 mmol) and ethyl 2-((dimethylaminomethylene)-3-oxobutanoate (2.00 g, 10.8 mmol). The mixture warmed to reflux and stirred for 2 hrs, cooled to RT and stirred overnight. The mixture was evaporated at reduced pressure to give an oil which was dissolved in ether (25 mL) and washed successively with water (25 mL), saturated sodium bicarbonate (25 mL) and brine (25 mL), dried (Na2SO4 and evaporated at reduced pressure to give an oil. The oil was purified by chromatography (Biotage S1-25 column, 10-40% ethyl acetate/Hex 750 mL) to give ethyl 1-tert-butyl-5-methyl-1H-pyrazole-4-carboxylate (1.48 g, 65% yield) as an oil. MS (ESI) m/z: 211.0 (M+H+).

reactant | tert-butylhydrazine hydrochloride | 10.8 mmol, 1.35 g | Cl.C(C)(C)(C)NN
reactant | (dimethylaminomethylene)-3-oxobutanoate | 10.8 mmol, 2.00 g | CN(C)C=C(C(=O)[O-])C(C)=O
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | ether | 25 mL | CCOCC | C4H10O
product | ethyl 1-tert-butyl-5-methyl-1H-pyrazole-4-carboxylate | 1.48 g, 65% yield | C(C)(C)(C)N1N=CC(=C1C)C(=O)OCC | C11H18N2O2
